US08865713B2
Step A: 1-Carbamimidoyl-1H-pyrazole-4-carboxylic acid ethyl ester hydrochloride.
To a solution of 1H-pyrazole-4-carboxylic acid ethyl ester (5.00 g, 35.7 mmol), cyanamide (1.50 g, 35.7 mmol), and dioxane (25 mL) was added a solution of 4M HCl in dioxane (9.80 mL, 39.3 mmol). The reaction mixture was heated to 100° C. for 3 h. The reaction was cooled to 23° C. and Et2O (20 mL) was added. The resulting white precipitate was filtered to yield the titled compound (7.26 g, 93%). 1H NMR (400 MHz, DMSO-d6): 9.65 (br m, 4H), 9.29 (s, 1H), 8.43 (s, 1H), 4.31 (q, J=7.1 Hz, 2H), 1.31 (t, J=7.1 Hz, 3H).

reactant | 1H-pyrazole-4-carboxylic acid ethyl ester | 35.7 mmol, 5.00 g | C(C)OC(=O)C=1C=NNC1 | C6H8N2O2
reactant | cyanamide | 35.7 mmol, 1.50 g | N#CN | CH2N2
reactant | dioxane | 25 mL | O1CCOCC1 | C4H8O2
reactant | HCl | 4M | Cl | ClH
reactant | dioxane | 39.3 mmol, 9.80 mL | O1CCOCC1 | C4H8O2
solvent | Et2O | 20 mL | CCOCC | C4H10O
product | 1-Carbamimidoyl-1H-pyrazole-4-carboxylic acid ethyl ester hydrochloride | 7.26 g, 93% | Cl.C(C)OC(=O)C=1C=NN(C1)C(N)=N | InChI=1S/C7H10N4O2.ClH/c1-2-13-6(12)5-3-10-11(4-5)7(8)9;/h3-4H,2H2,1H3,(H3,8,9);1H
